US05288727
8.9 g of (72 mmol) of 4-fluorobenzaldehyde and 32 g (72 mmol) of (4-trifluromethylbenzyl)triphenylphosphonium chloride were dissolved in 300 ml of methylene chloride. While vigorously stirring the solution, 280 ml (0.84 mol) of 3N sodium hydroxide was dropwise added at room temperature. After completion of the dropwise addition, the mixture was stirred at room temperature for 2 hours. After completion of the reaction, the mixture was subjected to liquid separation. The organic layer was washed twice with water and then dried over anhydrous sodium sulfate. Then, the solvent was distilled off. The residue was purified by silica gel column chromatography (developing solvent: n-hexane) to obtain 12.4 g of 4-fluoro-4'-trifluoromethylstilbene.

reactant | 4-fluorobenzaldehyde | 72 mmol, 8.9 g | FC1=CC=C(C=O)C=C1 | C7H5FO
reactant | (4-trifluromethylbenzyl)triphenylphosphonium chloride | 72 mmol, 32 g | [Cl-].FC(C1=CC=C(C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1)(F)F
reactant | sodium hydroxide | 0.84 mol, 3N, 280 ml | [OH-].[Na+]
solvent | methylene chloride | 300 ml | C(Cl)Cl | CH2Cl2
product | 4-fluoro-4'-trifluoromethylstilbene | 12.4 g | FC1=CC=C(C=C1)C=CC1=CC=C(C=C1)C(F)(F)F | C15H10F4
